US08466186B2
(d) 4-Chloro-3-[5-chloro-6-(2-dimethylaminomethyl-pyrrolidin-1-yl)-1H-benzimidazol-2-ylamino]-benzylamine
The sub-title compound was prepared from {4-chloro-3-[5-chloro-6-(2-dimethylaminomethyl-pyrrolidin-1-yl)-1H-benzimidazol-2-ylamino]-benzyl}-carbamic acid tert-butyl ester (20 mg, 0.04 mmol) and 6 M aq. HCl-solution (1.0 ml) in THF (2 mL) in analogy to example 3 step (d).

reactant | {4-chloro-3-[5-chloro-6-(2-dimethylaminomethyl-pyrrolidin-1-yl)-1H-benzimidazol-2-ylamino]-benzyl}-carbamic acid tert-butyl ester | 0.04 mmol, 20 mg | C(C)(C)(C)OC(NCC1=CC(=C(C=C1)Cl)NC1=NC2=C(N1)C=C(C(=C2)Cl)N2C(CCC2)CN(C)C)=O | C26H34Cl2N6O2
reactant | HCl | 6 M, 1.0 ml | Cl | ClH
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | 4-Chloro-3-[5-chloro-6-(2-dimethylaminomethyl-pyrrolidin-1-yl)-1H-benzimidazol-2-ylamino]-benzylamine | ClC1=C(C=C(CN)C=C1)NC1=NC2=C(N1)C=C(C(=C2)Cl)N2C(CCC2)CN(C)C | C21H26Cl2N6
